US08497278B2
(6,8-Dichloro-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-(1H-imidazol-2-yl)-amine (171)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 6,8-dichloro-3-(chloromethyl)-2-p-tolylimidazo[1,2-a]pyridine hydrochloride and 1H-imidazol-2-amine. m/e+ 372 for C18H16Cl2N5 [M+H]+; 1H-NMR (300 MHz, CDCl3) δ 8.10 (s, 1H), 7.27 (m, 4H), 6.92 (d, J=6.6 Hz, 2H), 6.76 (s, 2H), 4.67 (s, 2H), 4.50 (bs, 1H), 2.31 (s, 3H) ppm.

reactant | 6,8-dichloro-3-(chloromethyl)-2-p-tolylimidazo[1,2-a]pyridine hydrochloride | Cl.ClC=1C=C(C=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)CCl)Cl
reactant | 1H-imidazol-2-amine | N1C(=NC=C1)N | C3H5N3
product | (6,8-Dichloro-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-(1H-imidazol-2-yl)-amine | ClC=1C=C(C=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)CNC=2NC=CN2)Cl | C18H15Cl2N5
